US06900216B2
A few drops of a solution of 5-bromobenzo[b]thiophene (0.93 g; prepared in a manner similar to that described in Example 21) in tetrahydrofuran (10 ml) was added under nitrogen to a mixture of magnesium turnings (0.1 g), tetrahydrofuran (2 ml) and a few small crystals of iodine, heat was applied to initiate the reaction, then the remainder of the bromobenzo[b]thiophene solution was added at reflux temperature over 10 minutes. When the addition was complete, the mixture was heated under reflux for 45 minutes, then a solution of N-methoxy-N-methylbutyramide (0.6 g) in tetrahydrofuran (10 ml) was added. The mixture was heated under reflux for 1 hour, cooled to ambient temperature, then quenched by the addition of 2M hydrochloric acid (15 ml). Ethyl acetate (25 ml) was added, the mixture was stirred at ambient temperature for 45 minutes, the organic layer was separated, then further product was isolated from the aqueous layer by extraction into ethyl acetate (20 ml). The combined ethyl acetate solutions were washed with water (2×10 ml) and saturated aqueous sodium chloride solution (10 ml), then they were dried (MgSO4) and the solvents were removed in vacuo. The residue was purified by flash chromatography over silica using petroleum ether (b.p. 60-80° C.) followed by a 95:5 mixture of petroleum ether (b.p. 60-80° C.) and ethyl acetate as eluants. Appropriate fractions were combined and the solvents removed in vacuo to give 1-(benzo[b]thiophen-5-yl)butan-1-one (0.1 g) as a yellow oil which was used without further purification.

reactant | 5-bromobenzo[b]thiophene | BrC1=CC2=C(SC=C2)C=C1 | C8H5BrS
reactant | magnesium | 0.1 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | bromobenzo[b]thiophene | BrC1=CC2=C(S1)C=CC=C2 | C8H5BrS
reactant | N-methoxy-N-methylbutyramide | 0.6 g | CON(C(CCC)=O)C | C6H13NO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-(benzo[b]thiophen-5-yl)butan-1-one | 0.1 g | S1C2=C(C=C1)C=C(C=C2)C(CCC)=O | C12H12OS
